US06218538B1
3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-(2-furyl)-6-[(2-(4-methyl-1-piperazinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(4-methyl-1-piperazinyl)ethoxy)acetoacetate (500 mg, 1.38 mmol), 3,4-dichlorobenzaldehyde (241.5 mg, 1.38 mmol), 2-amidinofuran hydrochloride (202.3 mg, 1.38 mmol) and catalytic amounts of piperidine (1 μL) and acetic acid (10 μL) was stirred in N,N-dimethylformamide (5 mL) for 2 days at room temperature. Sodium hydrogen carbonate was added and the reaction mixture was stirred for an additional 5 days at room temperature before heating to 60° C. for 3 days. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. The oil was further purified by flash chromatography to give the title compound (48 mg) as an oil. Electrospray MSm/z 611/613 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(4-methyl-1-piperazinyl)ethoxy)acetoacetate | 1.38 mmol, 500 mg | CN1CCN(CC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H30N2O4
reactant | 3,4-dichlorobenzaldehyde | 1.38 mmol, 241.5 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2-amidinofuran hydrochloride | 1.38 mmol, 202.3 mg | Cl.C(N)(=N)C=1OC=CC1
reactant | piperidine | 1 μL | N1CCCCC1 | C5H11N
reactant | Sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
product | 3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-(2-furyl)-6-[(2-(4-methyl-1-piperazinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate | 48 mg | ClC=1C=C(C=CC1Cl)C1N=C(NC(=C1C(=O)OCCCC1=CC=CC=C1)COCCN1CCN(CC1)C)C=1OC=CC1 | C32H36Cl2N4O4
